US06462198B1
9H-Xanthene-9-carboxylic acid oxazol-2-yl-amide
The title compound, white solid, m.p.=232-235° C., MS: m/e=292 (M+) was prepared in accordance with the general method of example 31 from 9H-xanthene-9-carbonyl chloride and 2-amino-oxazole.

reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
reactant | 2-amino-oxazole | NC=1OC=CN1 | C3H4N2O
product | 9H-Xanthene-9-carboxylic acid oxazol-2-yl-amide | O1C(=NC=C1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C17H12N2O3
